US06878721B1
N-(5,6-Diethyl-indan-2-yl)-benzamide
5,6-Diethyl-indan-2-ylamine (4.10 g) is dissolved in dichloromethane (DCM) (150 mL) and triethylamine (2.41 g) is added. Benzoyl chloride (3.20 g) is then added dropwise and the reaction mixture is stirred at room temperature. The reaction is shown to be complete by TLC after 1 hour. The solution is washed with 0.2M HCl (100 mL), water (100 mL) and brine (100 mL). The organic layer is dried over MgSO4, filtered and the solvent is removed in vacuo. Crystallised from ethyl acetate. TLC (silica, dichloromethane/methanol 10:1 Rf=0.85).

reactant | 5,6-Diethyl-indan-2-ylamine | 4.10 g | C(C)C=1C=C2CC(CC2=CC1CC)N | C13H19N
reactant | triethylamine | 2.41 g | C(C)N(CC)CC | C6H15N
reactant | Benzoyl chloride | 3.20 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | N-(5,6-Diethyl-indan-2-yl)-benzamide | C(C)C=1C=C2CC(CC2=CC1CC)NC(C1=CC=CC=C1)=O | C20H23NO
